US05527827
7-Bromomethyl-4-(furan-3-yl)coumarin
To a solution of 4-(furan-3-yl)-7-methylcoumarin (1.2 g, 5.3 mmol) in CCl4 (40 mL) was added NBS (1 g, 5.8 mmol) followed by AIBN (87 mg, 0.53 mmol). The resulting mixture was refluxed for 4 h, then cooled to r.t. filtered and evaporated. Purification by chromatrography on silica gel gave 682 mg (42%) of the title compound.

reactant | 4-(furan-3-yl)-7-methylcoumarin | 5.3 mmol, 1.2 g | O1C=C(C=C1)C1=CC(OC2=CC(=CC=C12)C)=O | C14H10O3
reactant | NBS | 5.8 mmol, 1 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 0.53 mmol, 87 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | CCl4 | 40 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 7-Bromomethyl-4-(furan-3-yl)coumarin | 682 mg, 42% | BrCC1=CC=C2C(=CC(OC2=C1)=O)C1=COC=C1 | C14H9BrO3
